US07354924B2
Preparation of Example 138, 1-(benzoyl)-4-[(4-methoxy-7-(1-methylpyrazin-2-on-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine:
1-(benzoyl)-4-[(4-methoxy-7-(2-hydroxyl-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine (6 mg), MeI (5 mg) and K2CO3 (4 mg) were dissolved in acetone (5 ml). The reaction was stirred for four hours at room temperature. After solid was filtered away, the mother liquid was concentrated to give a residue which was purified using a Shimadzu automated preparative HPLC System to provide 3.0 mg of the desired compound, 1-(benzoyl)-4-[(4-methoxy-7-(1-methylpyrazin-2-on-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine. MS m/z: (M+H)+ Calc'd for C26H25N6O5: 501.19; found 501.14. HPLC retention time: 1.08 minutes (column G).

reactant | 1-(benzoyl)-4-[(4-methoxy-7-(2-hydroxyl-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 6 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(=NC1)O)=O | C25H22N6O5
reactant | MeI | 5 mg | CI | CH3I
reactant | K2CO3 | 4 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 1-(benzoyl)-4-[(4-methoxy-7-(1-methylpyrazin-2-on-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 3.0 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(N(C1)C)=O)=O | C26H24N6O5
